US06762321B2
1.80 g (3.74 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)-1-methylethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide, 693 mg (4.11 mmol) of 48% hydrobromic acid and 20 ml of acetic acid were mixed and stirred at 80° C. for 2 hours. The solvent was distilled off from the reaction mixture under reduced pressure and the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 1.10 g of 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)-1-methylethyl]-2-(4-methylphenyl)acrylamide.

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)-1-methylethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide | 3.74 mmol, 1.80 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(C)NC(C(=COC(F)F)C1=CC=C(C=C1)C)=O)OC | C28H29F2NO4
reactant | hydrobromic acid | 4.11 mmol, 693 mg | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)-1-methylethyl]-2-(4-methylphenyl)acrylamide | 1.10 g | FC(OC=C(C(=O)NC(CC1=CC(=C(C=C1)O)OC)C)C1=CC=C(C=C1)C)F | C21H23F2NO4
